US04880808
A mixture of 11.10 parts of N-[2,6-dimethyl-4-(phenylmethoxy)phenyl]hexahydro-3,3-dimethyl-1-oxoimidazo[1,5-a]pyrazine-7(8H)-acetamide and 100 parts of a hydrochloric acid solution 0.5N was stirred for 2 hours at reflux temperature. After cooling, the reaction mixture was treated with a sodium hydroxide solution 50%. The product was extracted twice with dichloromethane. The combined extracts were dried, filtered and evaporated. The residue was suspended in 2,2'-oxybispropane. The product was filtered off and dried, yielding 8.19 parts (82.6%) of 3-(aminocarbonyl)-N-[2,6-dimethyl-4-(phenylmethoxy)phenyl]-1-piperazineacetamide (int. 2).

reactant | N-[2,6-dimethyl-4-(phenylmethoxy)phenyl]hexahydro-3,3-dimethyl-1-oxoimidazo[1,5-a]pyrazine-7(8H)-acetamide | CC1=C(C(=CC(=C1)OCC1=CC=CC=C1)C)NC(CN1CC2N(CC1)C(NC2=O)(C)C)=O | C25H32N4O3
reactant | hydrochloric acid | 0.5N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
product | 3-(aminocarbonyl)-N-[2,6-dimethyl-4-(phenylmethoxy)phenyl]-1-piperazineacetamide | 82.6% | NC(=O)C1CN(CCN1)CC(=O)NC1=C(C=C(C=C1C)OCC1=CC=CC=C1)C | C22H28N4O3
